US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-5-carbamoyl-2-methylaniline
To a solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-carbamoyl-2-methylnitrobenzene (4.7 g) in methanol (120 ml) was added palladium on carbon (0.5 g) and the mixture was stirred under a hydrogen atmosphere at room temperature for 2 hours. The reaction mixture was filtered. The filtrate was concentrated in vacuo to give the desired compound (4.0 g, yield 93%) as a yellow amorphous solid.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-carbamoyl-2-methylnitrobenzene | 4.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1C(N)=O)[N+](=O)[O-])C | C18H25N3O6
solvent | methanol | 120 ml | CO | CH4O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-5-carbamoyl-2-methylaniline | 4.0 g, yield 93% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(N)C=C1C(N)=O)C | C18H27N3O4
